US07163937B2
A solution of (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butyl(methyl)amino)cyclohexanecarboxylate (330 mg, 0.65 mmol) in methanol was treated with 100 mg of 10% Pd/C and hydrogenated at 55 psi of H2 in a Parr shaker overnight. The catalyst was filtered and the filtrate concentrated in vacuo to give 200 mg of (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butyl(methyl)amino)-cyclohexanecarboxylate as a white solid. This was used without further purification. MS found: (M+H)+=326.50

reactant | (1R,2S,5R)-methyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-5-(tert-butyl(methyl)amino)cyclohexanecarboxylate | 0.65 mmol, 330 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)(C)C)C(=O)OC)=O | C25H37N3O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butyl(methyl)amino)-cyclohexanecarboxylate | 200 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)(C)C)C(=O)OC)=O | C17H31N3O3
